US09062045B2
5-bromo-2-hydrazinylpyridine (I.i)
To a solution of 5-bromo-2-fluoropyridine (10 g, 56.8 mmol) in EtOH (120 ml) was added hydrazine hydrate (14.22 g, 284 mmol), the mixture was heated to reflux and stirred overnight (16 hr). The solvent of the reaction mixture was evaporated about half under reduced pressure, then cooling in an ice bath there precipitation was occurred, filtered and washed the product with a minimum of EtOH and water, dried in vacuum to obtain pure desired product as white powder (10.2 g, yield 91%). LCMS (method A): [M+H]+=188.1, 190.1, tR=0.62 min.

reactant | 5-bromo-2-fluoropyridine | 56.8 mmol, 10 g | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | hydrazine hydrate | 284 mmol, 14.22 g | O.NN
solvent | EtOH | 120 ml | CCO | C2H6O
product | 5-bromo-2-hydrazinylpyridine | 10.2 g, yield 91% | BrC=1C=CC(=NC1)NN | C5H6BrN3
